US07858624B2
3,3-Dimethylbut-1-yne (1.6 g, 20 mmol) was added to a solution of 2,6-dibromophenol (5.0 g, 20 mmol) and Cu2O (1.7 g, 12 mmol) in dry pyridine (50 mL) under N2, then the mixture was heated to about 55° C. and stirred overnight. The mixture was filtered and the filtrate was concentrated to give a residue, which was dissolved in EtOAc. This solution was washed with brine and dried over Na2SO4. The solvent was removed and the residue was purified by column chromatography to afford 7-bromo-2-tert-butyl-benzofuran (1.3 g, 26%). 1H NMR (CDCl3): 1.40 (S, 9H), 6.41 (s, 1H), 7.04 (t, 1H), 7.38 (d, 1H), 7.42 (d, 1H).

reactant | 3,3-Dimethylbut-1-yne | 20 mmol, 1.6 g | CC(C#C)(C)C | C6H10
reactant | 2,6-dibromophenol | 20 mmol, 5.0 g | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-bromo-2-tert-butyl-benzofuran | 1.3 g, 26% | BrC1=CC=CC=2C=C(OC21)C(C)(C)C | C12H13BrO
